US09388176B2
N-(3-isopropylphenyl)-6-(2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)picolinamide
In a manner similar to that described in Example 108, a mixture of 6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid and 3-isopropylaniline were converted to the title compound (560 mg).

reactant | 6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid | CSC=1N=CC2=C(N1)CCN(C2)C2=CC=CC(=N2)C(=O)O | C14H14N4O2S
reactant | 3-isopropylaniline | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
product | N-(3-isopropylphenyl)-6-(2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)picolinamide | 560 mg | C(C)(C)C=1C=C(C=CC1)NC(C1=NC(=CC=C1)N1CC2=C(N=C(N=C2)SC)CC1)=O | C23H25N5OS
